US20010020087A1
Preparation of Ethyl 2-(5-ethyl-2-pyridyl)-4-isopropyl-4-methyl-5-oxo-2-imidazoline-1-acetate
A stirred mixture of sodium hydride (0.45 g, 15 mmol, 80% oil dispersion) in anhydrous tetrahydrofuran is treated with a solution of 2-(5-ethyl-2-pyridyl)-4-isopropyl-4-methyl-5-oxo-2-imidazoline (3.30 g, 13.47 mmol) in anhydrous tetrahydrofuran dropwise over the course of 40 minutes. After addition is complete and the initial effervescence subsides, ethyl bromoacetate (2.30 g, 13.50 mmol) is added to the reaction mixture. After 24 hours stirring at room temperature under nitrogen, the reaction mixture is partitioned between water and ether. The layers are separated, and the organic layer is dried over magnesium sulfate, vacuum filtered through diatomaceous earth and concentrated in vacuo to obtain a residue. The residue is purified by flash chromatography (2:1 hexanes/ethyl acetate eluent) to give the title product as a pale yellow oil.

reactant | sodium hydride | 15 mmol, 0.45 g | [H-].[Na+]
reactant | 2-(5-ethyl-2-pyridyl)-4-isopropyl-4-methyl-5-oxo-2-imidazoline | 13.47 mmol, 3.30 g | C(C)C=1C=CC(=NC1)C=1NC(C(N1)(C)C(C)C)=O | C14H19N3O
reactant | ethyl bromoacetate | 13.50 mmol, 2.30 g | BrCC(=O)OCC | C4H7BrO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Ethyl 2-(5-ethyl-2-pyridyl)-4-isopropyl-4-methyl-5-oxo-2-imidazoline-1-acetate | C(C)C=1C=CC(=NC1)C=1N(C(C(N1)(C)C(C)C)=O)CC(=O)OCC | C18H25N3O3
